US08703768B2
Step 2: 3-Amino-6-(tetrahydro-furan-3-yl)-pyrazine-2-carboxylic acid methyl ester
A solution of 3-amino-6-(furan-3-yl)-pyrazine-2-carboxylic acid methyl ester (2.9 g, 13.2 mmol) in MeOH (150 ml) was treated with palladium on carbon (10%; 0.6 g, 0.28 mmol) and hydrogenated at 1.2 atmospheres for 40 h. Another 2 equivalents of palladium on carbon were consecutively added and the hydrogenation was continued for another 72 h. The reaction mixture was filtered and the catalyst was washed with MeOH. The solution was concentrated in vacuo and the product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light yellow solid (0.3 g, 10%).

reactant | 3-amino-6-(furan-3-yl)-pyrazine-2-carboxylic acid methyl ester | 13.2 mmol, 2.9 g | COC(=O)C1=NC(=CN=C1N)C1=COC=C1 | C10H9N3O3
solvent | MeOH | 150 ml | CO | CH4O
catalyst | palladium on carbon | 0.28 mmol, 0.6 g | [Pd] | Pd
catalyst | palladium on carbon | 2 equivalents | [Pd] | Pd
product | 3-Amino-6-(tetrahydro-furan-3-yl)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CN=C1N)C1COCC1 | C10H13N3O3
